US05750213
First, 4 g of 6-[2,3-difluorobiphenyl-4'-yl]oxyhexyl 2,2-bis(6-benzyloxyhexyl)acetate, 1.3 g of 10% Pd-C, and 150 ml of tetrahydrofuran were placed in a 300 ml autoclave. The mixture was stirred at room temperature for 2 days under a hydrogen pressure of 10 kg/cm2. The catalyst was filtered away and a filtrate was concentrated. Thereafter, the residue was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=2/3) to obtain 2.6 g of 6-[2,3-difluorobiphenyl-4'-yl]oxyhexyl 2,2-bis(6-hydroxyhexyl)acetate (Y: 90%). The compound thus obtained had a purity of 99.3% by HPLC.

reactant | 6-[2,3-difluorobiphenyl-4'-yl]oxyhexyl 2,2-bis(6-benzyloxyhexyl)acetate | 4 g | C(C1=CC=CC=C1)OCCCCCCC(C(=O)OCCCCCCOC1=CC=C(C=C1)C1=C(C(=CC=C1)F)F)CCCCCCOCC1=CC=CC=C1 | C46H58F2O5
catalyst | Pd-C | 1.3 g | [Pd] | Pd
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 6-[2,3-difluorobiphenyl-4'-yl]oxyhexyl 2,2-bis(6-hydroxyhexyl)acetate | 2.6 g, 90% | OCCCCCCC(C(=O)OCCCCCCOC1=CC=C(C=C1)C1=C(C(=CC=C1)F)F)CCCCCCO | C32H46F2O5
